US04760163
using ethyl 2-chloro-5-(1,2,4,5,6,7-hexahydro-2,4-dioxo-3H-cyclopenta[d]pyrimidin-3-yl)-benzoate and chlorodimethyl ether in dimethylformamide there is obtained ethyl 2-chloro-5-(1,2,4,5,6,7-hexahydro-1-methoxymethyl-2,4-dioxo-3H-cyclopenta[d]pyrimidin-3-yl)-benzoate, m.p. 103°-106° C.,

reactant | ethyl 2-chloro-5-(1,2,4,5,6,7-hexahydro-2,4-dioxo-3H-cyclopenta[d]pyrimidin-3-yl)-benzoate | ClC1=C(C(=O)OCC)C=C(C=C1)N1C(NC2=C(C1=O)CCC2)=O | C16H15ClN2O4
reactant | chlorodimethyl ether | COCCl | C2H5ClO
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | ethyl 2-chloro-5-(1,2,4,5,6,7-hexahydro-1-methoxymethyl-2,4-dioxo-3H-cyclopenta[d]pyrimidin-3-yl)-benzoate | ClC1=C(C(=O)OCC)C=C(C=C1)N1C(N(C2=C(C1=O)CCC2)COC)=O | C18H19ClN2O5
